US04535092
A 1.6 molar solution of n-butyl-lithium in hexane (37 ml.) was added to a solution of thiophene (5 g.) in diethyl ether (50 ml.) which was maintained at 0° C., and the mixture was heated under reflux for 6 hours and then cooled to -78° C. A solution of ethyl pyruvate (5.9 g.) in diethyl ether (20 ml.) was added dropwise, the mixture was allowed to warm up to laboratory temperature and saturated aqueous ammonium chloride solution (20 ml.) was added. The mixture was extracted with ethyl acetate and the organic extract was washed with water and then with saturated aqueous sodium chloride solution, dried over magnesium sulphate and evaporated to dryness. The residue was dissolved in ethanol (30 ml.), a solution of potassium hydroxide (1.4 g.) in water (5 ml.) was added and the mixture was stirred at laboratory temperature for 2 hours and then evaporated to dryness. The residue was washed with ethyl acetate, dilute aqueous hydrochloric acid was added and the mixture was extracted with ethyl acetate. The extract was washed with water and then saturated aqueous sodium chloride solution, dried over magnesium sulphate and evaporated to dryness. There was thus obtained as residue 2-hydroxy-2-(thien-2-yl)propionic acid, which was used without further purification.

reactant | n-butyl-lithium | C(CCC)[Li]
reactant | thiophene | 5 g | S1C=CC=C1 | C4H4S
reactant | ethyl pyruvate | 5.9 g | C(C(=O)C)(=O)OCC | C5H8O3
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | hexane | 37 ml | CCCCCC | C6H14
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 2-hydroxy-2-(thien-2-yl)propionic acid | OC(C(=O)O)(C)C=1SC=CC1 | C7H8O3S
